US07176242B2
Step 4: N-{(1S,2R)-1-(3,5-Difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-2-(dipropylamino)isonicotinamide hydrochloride
To a mixture of 2-(Dipropylamino)isonicotinic acid hydrochloride (0.2 g) in methylene chloride (15 mL) was added triethylamine (0.195 g), HOBT (0.105 g), and HATU (0.293 g). The mixture was stirred at 39° C. for 10 minutes at which time (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol (0.285 g) was added. The mixture was stirred at 40° C. for 4 h then poured into methylene chloride (50 mL), washed with water then brine, dried over anhydrous magnesium sulfate and concentrated under vacuum. Column chromatography on silica gel (100 mL) using 5% methanol in methylene chloride as eluent and conversion to the hydrochloride salt gave 0.105 g of the title compound: MS (ESI+) for C31H40F2N4O2 m/z 539.3 (M+H)+.

reactant | 2-(Dipropylamino)isonicotinic acid hydrochloride | 0.2 g | Cl.C(CC)N(C=1C=C(C(=O)O)C=CN1)CCC
reactant | HOBT | 0.105 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | HATU | 0.293 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol | 0.285 g | N[C@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F | C19H24F2N2O
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 0.195 g | C(C)N(CC)CC | C6H15N
product | N-{(1S,2R)-1-(3,5-Difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-2-(dipropylamino)isonicotinamide hydrochloride | 0.105 g | Cl.FC=1C=C(C[C@@H]([C@@H](CNCC2=CC(=CC=C2)CC)O)NC(C2=CC(=NC=C2)N(CCC)CCC)=O)C=C(C1)F | InChI=1S/C31H40F2N4O2.ClH/c1-4-12-37(13-5-2)30-18-25(10-11-35-30)31(39)36-28(17-24-15-26(32)19-27(33)16-24)29(38)21-34-20-23-9-7-8-22(6-3)14-23;/h7-11,14-16,18-19,28-29,34,38H,4-6,12-13,17,20-21H2,1-3H3,(H,36,39);1H/t28-,29+;/m0./s1
